US07008950B1
5-(3,3-Diphenylpropyloxy)-3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran
Using 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol and 3,3-diphenylpropyl methanesulfonate, the title compound was obtained in the same manner as in Example 1. This was oily.

reactant | 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)O)C)(C)C | C22H28O2
reactant | 3,3-diphenylpropyl methanesulfonate | CS(=O)(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H18O3S
product | 5-(3,3-Diphenylpropyloxy)-3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran | Yield: 55% | C1(=CC=CC=C1)C(CCOC=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C(C)C)C1C)C)C)C1=CC=CC=C1 | C37H42O2
